Schaltung
*SPICE Netlist generated by Advanced Sim server on 05.12.2013 20:55:08

*Schematic Netlist:
C1 UA 0 4.7e-6
R1 UA UE 3300
R2 0 UA 5600
V1 UE 0 DC 0 SIN(00| 11| 1K1K| 00| 00| 0) AC 1 0

.SAVE 0 UA UE V1#branch @V1[z] @C1[i] @R1[i] @R2[i] @C1[p] @R1[p] @R2[p] @V1[p]

*PLOT AC -1 1 A=UA A=UE

.OPTION KeepLastSetup=False
*Selected Circuit Analyses:
.AC DEC 1000 0.1 1E5

.END
