*Default Diode Bridge Rectifier
*Connections:
*              V- 
*              | AC1
*              | | V+
*              | | | AC2
*              | | | |
.SUBCKT BRIDGE 1 2 3 4
D1 1 2 DMOD
D2 1 4 DMOD
D3 2 3 DMOD
D4 4 3 DMOD
.MODEL DMOD D ()
.ENDS BRIDGE