*Tunnel Diode Default
*MCE 600V 50A 27.2ns default parameters
*Diode Pinout: A,K
* Parameters:
* RS:  Series resistance value
* RP:  Negative resistance value in parallel with capacitance. 
* CP:   Capacitance value in parallel with negative resistance.
* LS:  Series inductance value.
*
*
.SUBCKT DTUNNEL1 1 2 PARAMS: Rs=6 Rp=-75 Cp=0.6E-12 Ls=0.1nH
RS  1 3  {Rs}
RP  3 4  {Rp}
CP  3 4  {Cp}
LS  4 2  {Ls}
.ENDS DTUNNEL1