*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-A213  
*  
* Parameters derived from information available in data sheet.  
*
*                 common-anode
*                 |  kathode-f
*                 |  |  kathode-g
*                 |  |  |  kathode-e
*                 |  |  |  |  kathode-d
*                 |  |  |  |  |  common-anode
*                 |  |  |  |  |  |  kathode-DP
*                 |  |  |  |  |  |  |  kathode-c
*                 |  |  |  |  |  |  |  |  kathode-b
*                 |  |  |  |  |  |  |  |  |  kathode-a
*                 |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_A213 1  2  3  4  5  6  7  8  9  10

DA1  10  1 dHDSP_A213
DB1   9  1 dHDSP_A213
DC1   8  1 dHDSP_A213
DD1   5  1 dHDSP_A213
DE1   4  1 dHDSP_A213
DF1   2  1 dHDSP_A213
DG1   3  1 dHDSP_A213
DDP1  7  1 dHDSP_A213

DA2  10  6 dHDSP_A213
DB2   9  6 dHDSP_A213
DC2   8  6 dHDSP_A213
DD2   5  6 dHDSP_A213
DE2   4  6 dHDSP_A213
DF2   2  6 dHDSP_A213
DG2   3  6 dHDSP_A213
DDP2  7  6 dHDSP_A213

.MODEL dHDSP_A213 D
+ (  
+     IS = 2.92097419E-52 
+      N = 0.52799867 
+     RS = 25.27044243 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_A213