*Ideal Transformer Subcircuit Parameters
*RATIO = turns ratio (= secondary/primary)
*
*Ideal Transformer
*dw 6/8/99: created
*Connections:
*                  Pri+
*                  | Pri-
*                  | | Sec+
*                  | | | Sec-
*                  | | | |
.SUBCKT IDEALTRANS 1 2 3 4 PARAMS: RATIO=1
BP  1 2 I=( -I(BS)*{RATIO} )
BS  3 4 V=( V(1,2)*{RATIO} )
.ENDS IDEALTRANS