*Transformer Subcircuit Parameters
*RATIO1 = Turns ratio= Secondary1/Primary
*RATIO2 = Turns ratio= Secondary2/Primary
*RPRI   = Primary DC resistance
*R2D    = Secondary1 leakage resistance referred to the primary side
*R3D    = Secondary2 leakage resistance referred to the primary side
*L1     = Primary Leakage inductance
*XM     = Magnetizing Reactance
*RCORE  = Core Loss Resistance
*X2D   = Secondary1 Leakage Reactance referred to the primary side
*X3D   = Secondary2 Leakage Reactance referred to the primary side

*Non-ideal 4-winding Transformer
*jjt created 18/1/2001.
*jjt 18/1/2002: changed LX2D,LX3D comments to match subcircuit parameters (X2D, X3D) to avoid possible confusion.
*Connections:
*                 Pri+
*                 |   Pri-
*                 |   |   Sec1+
*                 |   |   |   Sec1-
*                 |   |   |   |   Sec2+
*                 |   |   |   |   |   Sec2-
*                 |   |   |   |   |   |   
*                 |   |   |   |   |   |   
*                 |   |   |   |   |   |   
*                 |   |   |   |   |   |   
.SUBCKT NI3WTRANS 1   2   3   4   5   6      PARAMS: RATIO1=1 RATIO2=1 RPRI=0.1 R2D=0.1 R3D=0.1 L1=1U
+ X2D=1u X3D=1u XM=1k RCORE=1Meg

VISRC1   4 11 0V
VISRC2   6 14 0V
FCTRL1   10 2 VISRC1 {RATIO1}
FCTRL2   13 2 VISRC2 {RATIO2}
EVCVS1   3 11 10 2 {RATIO1}
EVCVS2   5 14 13 2 {RATIO2}
RRPRI    1 8 {RPRI}
RR2D    9 10 {R2D}
RR3D    12 13 {R3D}
LL1   8 7 {L1}
LX2D  7 9 {X2D}
LX3D  7 12 {X3D}
LXM   7 2 {XM}
RRCORE 7 2 {RCORE}

.ENDS NI3WTRANS