*Transformer Subcircuit Parameters
*RATIO1 = Turns ratio= Secondary1/Primary
*RATIO2 = Turns ratio= Secondary2/Primary
*RATIO3 = Turns ratio= Secondary3/Primary
*RPRI   = Primary DC resistance
*R2D    = Secondary1 leakage resistance referred to the primary side
*R3D    = Secondary2 leakage resistance referred to the primary side
*R4D    = Secondary3 leakage resistance referred to the primary side
*L1     = Primary Leakage inductance
*XM     = Magnetizing Reactance
*RCORE  = Core Loss Resistance
*X2D   = Secondary1 Leakage Reactance referred to the primary side
*X3D   = Secondary2 Leakage Reactance referred to the primary side
*X4D   = Secondary3 Leakage Reactance referred to the primary side

*Non-ideal 4-winding Transformer
*jjt created 17/1/2001.
*jjt 18/1/2002: deleted a comment line (of default values) which lacked the asterisk, changed the parameter comments
*               to be consistent with the parameters to avoid possible confusion.
*Connections:
*                 Pri+
*                 |   Pri-
*                 |   |   Sec1+
*                 |   |   |   Sec1-
*                 |   |   |   |   Sec2+
*                 |   |   |   |   |   Sec2-
*                 |   |   |   |   |   |   Sec3+
*                 |   |   |   |   |   |   |   Sec3-
*                 |   |   |   |   |   |   |   |
*                 |   |   |   |   |   |   |   |
.SUBCKT NI4WTRANS 1   2   3   4   5   6   7   8   PARAMS: RATIO1=1 RATIO2=1 RATIO3=1 RPRI=0.1 R2D=0.1 R3D=0.1 R4D=0.1 L1=1U
+ X2D=1u X3D=1u X4D=1u XM=1k RCORE=1Meg

VISRC1   4 13 0V
VISRC2   6 16 0V
VISRC3   8 19 0V 
FCTRL1   12 2 VISRC1 {RATIO1}
FCTRL2   15 2 VISRC2 {RATIO2}
FCTRL3   18 2 VISRC3 {RATIO3}
EVCVS1   3 13 12 2 {RATIO1}
EVCVS2   5 16 15 2 {RATIO2}
EVCVS3   7 19 18 2 {RATIO3}
RRPRI    1 10 {RPRI}
RR2D    11 12 {R2D}
RR3D    14 15 {R3D}
RR4D    17 18 {R4D}
LL1   10 9 {L1}
LX2D  9 11 {X2D}
LX3D  9 14 {X3D}
LX4D  9 17 {X4D}
LXM   9 2 {XM}
RRCORE 9 2 {RCORE}

.ENDS NI4WTRANS