*Default NPN Darlington Transistor pkg:TO-92B 1,2,3
*NPN Trans Pinout: C,B,E
.SUBCKT NPN2 1 2 3
Q1 1 2 4 QMOD .1
Q2 1 4 3 QMOD
D1 3 1 DMOD
.MODEL QMOD NPN ()
.MODEL DMOD D ()
.ENDS NPN2