*Default NPN Darlington Transistor pkg:TO-92B 1,2,3
*NPN Trans Pinout: C,B,E
.SUBCKT NPN3 1 2 3
Q1 1 2 4 QMOD .1
Q2 1 4 3 QMOD
R1 2 4  10E-3
R2 4 3  100
D1 3 1  DMOD
.MODEL QMOD NPN()
.MODEL DMOD D()
.ENDS NPN3