*Default PNP Darlington Transistor pkg:TO-92B 1,2,3
*PNP Trans Pinout: C,B,E
.SUBCKT PNP3 1 2 3
Q1 1 2 4 QMOD .1
Q2 1 4 3 QMOD
R1 2 4  10E3
R2 4 3  100
D1 1 3  DMOD
.MODEL QMOD PNP ()
.MODEL DMOD D ()
.ENDS PNP3