*Default Programable Unijunction Transistor pkg: TO-92
*Connections:
*           Anode
*           | Gate
*           | | Cathode
*           | | |
.SUBCKT PUT 1 2 3
Q1 2 4 3 NMOD
Q2 4 2 1 PMOD
.MODEL NMOD NPN()
.MODEL PMOD PNP()
.ENDS PUT
