*SPDT Relay Subcircuit Parameters
*PULLIN     = Pull in voltage
*DROPOFF    = Drop off voltage
*CONTACT    = Contact resistance
*RESISTANCE = Coil resistance
*INDUCTANCE = Coil Inductance 

*Generic SPDT Relay
*Connections:     COM 
*                 | NC
*                 | | NO
*                 | | | T1
*                 | | | | T2
*                 | | | | |
.SUBCKT SPDTRELAY 1 2 3 4 5 
+ PARAMS: PULLIN=4 DROPOFF=0.1 CONTACT=1m RESISTANCE=500 INDUCTANCE=10m
L1 4 6 {(INDUCTANCE/2)}
L2 5 7 {(INDUCTANCE/2)}
R1 6 7 {RESISTANCE}
BNO 8 0 V={PULLIN}-abs(v(6,7))
SW1 2 1 8 0 SWNC ON
BNC 9 0 V=abs(v(6,7))
SW2 3 1 9 0 SWNO OFF
.MODEL SWNC SW(VT={DROPOFF} RON={CONTACT} )
.MODEL SWNO SW(VT={(PULLIN*0.98)} RON={CONTACT} )
.ENDS SPDTRELAY